US05559105
(2E)-3(2-n-Butyl-1-trimethylsilylethyloxymethoxy-1H-imidazol-5-yl)-3-(2-carboxymethoxy-4-methoxyphenyl)-2-(3,4-methylenedioxybenzyl)prop-2-enoic acid
Methyl (2RS,3RS)-3-(2-n-Butyl-1-trimethylsilylethyloxymethoxy-1H-imidazol-5-yl)-3-(2-ethoxycarbonylmethoxy-4-methoxyphenyl)-2-(3,4-methylenedioxybenzyl)thiirane-2-carboxylate (411 mg, 0.58 mmol) and trimethyl phosphite, freshly distilled from Na (2 ml, 6 mmol) with 1-methylimidazole (100 μl) in CHCl3 (4 ml) were kept at reflux temperature for 48 h under argon. The solvent and excess trimethyl phosphite were removed under reduced pressure (high vacuum) and the residue chromatographed on silica gel (80% EtOAc/hexanes) to give the title compound. (256 mg, 65%)

reactant | Methyl (2RS,3RS)-3-(2-n-Butyl-1-trimethylsilylethyloxymethoxy-1H-imidazol-5-yl)-3-(2-ethoxycarbonylmethoxy-4-methoxyphenyl)-2-(3,4-methylenedioxybenzyl)thiirane-2-carboxylate | 0.58 mmol, 411 mg | C(CCC)C=1N(C(=CN1)C1(C(S1)(C(=O)OC)CC1=CC2=C(C=C1)OCO2)C2=C(C=C(C=C2)OC)OCC(=O)OCC)OCOC(C)[Si](C)(C)C | C36H48N2O10SSi
reactant | trimethyl phosphite | P(OC)(OC)OC | C3H9O3P
reactant | 1-methylimidazole | 100 μl | CN1C=NC=C1 | C4H6N2
solvent | CHCl3 | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | (2E)-3(2-n-Butyl-1-trimethylsilylethyloxymethoxy-1H-imidazol-5-yl)-3-(2-carboxymethoxy-4-methoxyphenyl)-2-(3,4-methylenedioxybenzyl)prop-2-enoic acid | C(CCC)C=1N(C(=CN1)/C(=C(/C(=O)O)\CC1=CC2=C(C=C1)OCO2)/C2=C(C=C(C=C2)OC)OCC(=O)O)OCOC(C)[Si](C)(C)C | C33H42N2O10Si
